US07135600B2
i) N2-[(3-Iodophenyl)sulfonyl]-N2-{[2-(trimethylsilyl)ethoxy]methyl}glycinamide
N2-[(3-Iodophenyl)sulfonyl]glycinamide (0.14 g) was stirred with sodium hydride (60% oil dispersion, 0.02 g) in DMF (2 ml) at 21° under nitrogen for 15 min. 2-Trimethylsilylethoxymethyl chloride (0.08 ml) was added and stirring was continued for 1.5 h. The mixture was poured into pH 6.4 phosphate buffer and the product was extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), concentrated and applied to a silica Bond Elut Cartridge (5 g) in dichloromethane containing methanol. The cartridge was eluted with dichloromethane, diethyl ether and ethyl acetate to give the title compound (0.16 g), LCMS RT=3.49 min.

reactant | N2-[(3-Iodophenyl)sulfonyl]glycinamide | 0.14 g | IC=1C=C(C=CC1)S(=O)(=O)NCC(=O)N | C8H9IN2O3S
reactant | sodium hydride | 0.02 g | [H-].[Na+]
reactant | 2-Trimethylsilylethoxymethyl chloride | 0.08 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | phosphate | pH 6.4 | P(=O)([O-])([O-])[O-]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N2-[(3-Iodophenyl)sulfonyl]-N2-{[2-(trimethylsilyl)ethoxy]methyl}glycinamide | 0.16 g | IC=1C=C(C=CC1)S(=O)(=O)N(CC(=O)N)COCC[Si](C)(C)C | C14H23IN2O4SSi
